US08877782B2
6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-2-carbonitrile
To a solution of (5-methyl-3-phenyl-isoxazol-4-yl)-methanol (189 mg, 1.0 mmol) and 6-chloropyridine-2-carbonitrile (150 mg, 1.0 mmol) in toluene (10 mL) was added sodium hydride (55% dispersion in mineral oil, 100 mg, 2.0 mmol) and the mixture heated at 50° C. for 6 h. Then 18-crown-6 (18 mg) was added and the mixture heated at 100° C. overnight. The mixture was then diluted with ethyl acetate and washed with water. The aqueous layers were extracted with ethyl acetate (10 mL) and the combined organic layers were dried over sodium sulfate. Purification by chromatography (SiO2, heptane:ethyl acetate=7:3) afforded the title compound (70 mg, 24%) as a white solid after trituration with diisopropylether. MS: m/e=292.0 [M+H]+.

reactant | (5-methyl-3-phenyl-isoxazol-4-yl)-methanol | 1.0 mmol, 189 mg | CC1=C(C(=NO1)C1=CC=CC=C1)CO | C11H11NO2
reactant | 6-chloropyridine-2-carbonitrile | 1.0 mmol, 150 mg | ClC1=CC=CC(=N1)C#N | C6H3ClN2
reactant | sodium hydride | 2.0 mmol, 100 mg | [H-].[Na+]
reactant | 18-crown-6 | 18 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-2-carbonitrile | 70 mg, 24% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=CC(=N1)C#N | C17H13N3O2
